US07943622B2
Step 2. Synthesis of morpholino(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(morpholine-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (20.0 mg, 0.038 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 14.5 mg (99%) of the desired product. LC-MS: RT=1.49 min, [M+H]+=307.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(morpholine-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.038 mmol, 20.0 mg | OC(=O)C(F)(F)F.N1(CCOCC1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | morpholino(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 14.5 mg, 99% | Cl.Cl.O1CCN(CC1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C15H22N4O3.2ClH/c20-15(18-6-8-21-9-7-18)19-5-4-17-10-13(19)12-22-14-2-1-3-16-11-14;;/h1-3,11,13,17H,4-10,12H2;2*1H
